US04218479
10.5 g of 2-benzyloxyphenylglyoxal hydrate (crude oil) are dissolved in 30 ml of dimethylsulfoxide, and 9 g of 2,3,4-trimethoxyphenethylamine are added thereto. The mixture is stirred at room temperature for 30 minutes, whereby a solution of α-(2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 10.5 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | 2,3,4-trimethoxyphenethylamine | 9 g | COC1=C(CCN)C=CC(=C1OC)OC | C11H17NO3
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | α-(2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone | COC1=C(CCN=C(C(=O)C2=CC=CC=C2)OCC2=CC=CC=C2)C=CC(=C1OC)OC | C26H27NO5
